US07494992B2
Preparation 67: 1-(3-chloro-4-methylphenyl)piperazine
To a mixture of 3-chloro-4-methylaniline (105.5 g, 0.745 mol) and diethanolamine (78.1 g, 0.745 mol) was added slowly with stirring and cooling, concentrated hydrochloric acid (c.a. 100 ml) to adjust the reaction mixture to pH 7. The reaction mixture was heated to remove water (66 ml), after standing for 18 h the mixture was heated to 240° C. for 6 h. Sodium hydroxide (5N, solution, 236 ml) was added and the product was extracted with chloroform (4×100 ml). The combined organic extracts were concentrated to give a red oil which was purified by distillation to give the title compound (107.0 g, 68%)

reactant | 3-chloro-4-methylaniline | 0.745 mol, 105.5 g | ClC=1C=C(N)C=CC1C | C7H8ClN
reactant | diethanolamine | 0.745 mol, 78.1 g | N(CCO)CCO | C4H11NO2
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 1-(3-chloro-4-methylphenyl)piperazine | 107.0 g, 68% | ClC=1C=C(C=CC1C)N1CCNCC1 | C11H15ClN2
